US08349860B2
2-((1R,2S)-2-aminocyclohexylamino)-4-(3-fluoro-4-(1H-pyrazol-1-yl)phenylamino)pyrimidine-5-carboxamide
A solution of tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (0.30 M in NMP, 2.00 mL, 0.600 mmol) in NMP (2 mL) was added to 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(3-fluoro-4-(1H-pyrazol-1-yl)phenylamino)pyrimidine-5-carboxamide (184 mg, 0.427 mmol). DIEA (0.150 mL, 0.863 mmol) was also added. The mixture was stirred at 90 C overnight. After being cooled to room temperature, water was added to induce precipitation.

reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 0.600 mmol, 0.30 M, 2.00 mL | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(3-fluoro-4-(1H-pyrazol-1-yl)phenylamino)pyrimidine-5-carboxamide | 0.427 mmol, 184 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NC2=CC(=C(C=C2)N2N=CC=C2)F)C(=O)N | C20H14FN9O2
reactant | DIEA | 0.863 mmol, 0.150 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-((1R,2S)-2-aminocyclohexylamino)-4-(3-fluoro-4-(1H-pyrazol-1-yl)phenylamino)pyrimidine-5-carboxamide | N[C@@H]1[C@@H](CCCC1)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)N1N=CC=C1)F)C(=O)N | C20H23FN8O
